US07659267B2
2-(3-Cyanophenyl)-4H-1,3-benzothiazin-4-one
A mixture of isophthalonitrile (1.00 g, 07.8 mmol), methyl thiosalicylate (1.97 g, 12 mmol), triethylamine (1.34 g, 13 mmol) and toluene (5 ml) was heated and refluxed for 5 hours under a nitrogen flow. The precipitated crystals were taken by filtration and recrystallized from tetrahydrofuran-ethanol to give the title compound (0.07 g, 2%) as crystals.

reactant | isophthalonitrile | 1.00 g | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
reactant | methyl thiosalicylate | 12 mmol, 1.97 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 13 mmol, 1.34 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-Cyanophenyl)-4H-1,3-benzothiazin-4-one | 0.07 g, 2% | C(#N)C=1C=C(C=CC1)C=1SC2=C(C(N1)=O)C=CC=C2 | C15H8N2OS
